### PR TITLE
[Merged by Bors] - feat(Algebra/Module/Submodule/Map): `map_toAddSubgroup`

### PR DESCRIPTION
**Pull request by jsm28**
Add the lemma

```lean
lemma map_toAddSubgroup (f : M →ₗ[R] M₂) (p : Submodule R M) :
    (p.map f).toAddSubgroup = p.toAddSubgroup.map (f : M →+ M₂) :=
```

analogous to the existing `map_toAddSubmonoid`.

From AperiodicMonotilesLean.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/Submodule/Map.lean [hunk 1]
```diff
@@ -409,6 +409,10 @@ lemma comap_neg {f : M →ₗ[R] M₂} {p : Submodule R M₂} :
     p.comap (-f) = p.comap f := by
   ext; simp
 
+lemma map_toAddSubgroup (f : M →ₗ[R] M₂) (p : Submodule R M) :
+    (p.map f).toAddSubgroup = p.toAddSubgroup.map (f : M →+ M₂) :=
+  SetLike.coe_injective rfl
```
Comment (urkud) [inline Mathlib/Algebra/Module/Submodule/Map.lean:414]:
```suggestion
  rfl
```
Otherwise LGTM. Thanks!
bors d+
